US08748624B2
3-(5-(2-(((2-chloro-4′-fluoro-3′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoic acid
Ethyl 3-(5-(2-(((3-chloro-4-iodophenyl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate (300 mg, 0.48 mmol), (4-fluoro-3-(trifluoromethyl)phenyl)boronic acid (138 mg, 0.67 mmol), Pd(dppf)Cl2 (39 mg, 0.05 mmol), and K2CO3 (131 mg, 0.95 mmol) were dissolved in 1,4-dioxane (1.6 mL) and water (0.4 mL) and the resulting mixture was heated to 80° C. After 16 h the resulting mixture was cooled to room temperature, diluted with EtOAc, washed with water and brine, dried (Na2SO4), and dry packed onto silica gel. Column chromatography yielded the title compound.

reactant | Ethyl 3-(5-(2-(((3-chloro-4-iodophenyl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate | 0.48 mmol, 300 mg | ClC=1C=C(C=CC1I)NCC1=C(C=C(C=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C25H22ClF3IN3O3
reactant | (4-fluoro-3-(trifluoromethyl)phenyl)boronic acid | 0.67 mmol, 138 mg | FC1=C(C=C(C=C1)B(O)O)C(F)(F)F | C7H5BF4O2
reactant | K2CO3 | 0.95 mmol, 131 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 0.4 mL | O | H2O
solvent | 1,4-dioxane | 1.6 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.05 mmol, 39 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(5-(2-(((2-chloro-4′-fluoro-3′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoic acid | ClC1=C(C=CC(=C1)NCC1=C(C=C(C=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)O)C1=CC(=C(C=C1)F)C(F)(F)F | C30H21ClF7N3O3
